US04450162
4-(4-Isopropylanilino)-5,6-dimethylpyrimidine (Compound No. 47)
To 3.6 g (0.025 mole) of 4-chloro-5,6-dimethylpyrimidine were added 3.4 g (0.025 mole) of p-isopropylaniline; the mixture was then heated at 100°-150° C. for about 3 minutes. The reaction mixture quickly became a solution and soon produced a precipitate, which was separated and then made alkaline by the addition of 50 ml of a dilute aqueous solution of sodium hydroxide. The mixture was then extracted with ethyl acetate and the extract was washed, in turn, with water and with a saturated aqueous solution of sodium chloride. It was then dried over anhydrous sodium sulphate and then the ethyl acetate was distilled off under reduced pressure, to give crystals, which, on recrystallisation froma 3:1 by volume mixture of benzene and hexane, gave 1.4 g (yield 23%) of the desired product in the form of very fine colourless needles melting at132°-133° C.

reactant | 4-chloro-5,6-dimethylpyrimidine | 0.025 mole, 3.6 g | ClC1=NC=NC(=C1C)C | C6H7ClN2
reactant | p-isopropylaniline | 0.025 mole, 3.4 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | 4-(4-Isopropylanilino)-5,6-dimethylpyrimidine | 1.4 g, yield 23% | C(C)(C)C1=CC=C(NC2=NC=NC(=C2C)C)C=C1 | C15H19N3
